US04634689
(A) 4-Amino-6-Chloro-3-(Methylaminosulfonyl)Benzenesulfonyl Chloride
Cool a solution of 4-amino-6-chloro-1,3-benzenedisulfonyl chloride (32.3 g) in tetrahydrofuran (THF, 150 ml) to -78° C. under a nitrogen atmosphere. Add a solution of 1.45 Molar methylamine in benzene (100 ml) containing triethylamine (10.1 g) dropwise with stirring over 45 minutes. After the addition is complete, stir at room temperature for 3 hours. Vacuum evaporate the solvent and partition the residue between ethyl acetate (EtOAc) (500 ml) and 10% aqueous citric acid (50 ml). Separate the organic layer and wash with saturated aqueous NaHCO3 (100 ml) followed by brine (100 ml). Dry the solution over Na2SO4, filter and vacuum evaporate the solvent. Triturate the residue with ether (100 ml) and collect the product by filtration. Vacuum dry at room temperature to give the title compound, m.p. 153°-155° C. Rf (silica gel; CH2Cl2 :EtOAc,97:3)=0.40.

reactant | 4-amino-6-chloro-1,3-benzenedisulfonyl chloride | 32.3 g | NC1=C(C=C(C(=C1)Cl)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl3NO4S2
reactant | methylamine | 1.45 Molar | CN | CH5N
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-Amino-6-Chloro-3-(Methylaminosulfonyl)Benzenesulfonyl Chloride | NC1=C(C=C(C(=C1)Cl)S(=O)(=O)Cl)S(=O)(=O)NC | C7H8Cl2N2O4S2
